US08440681B2
The mixture of 4-chloro-2-methoxy-5-methylaniline (2.0 g, 11.7 mmol), 4-(methylcarbamoyl)phenylboronic acid (2.08 g, 11.7 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.20 g, 2.9 mmol), Pd2(dba)3 (1.1 g, 1.2 mmol), and K3PO4 (7.4 g, 34.9 mmol) in 80 mL of n-butanol is degassed and heated at 130° C. overnight. The reaction mixture is filtered through a pad of celite, and concentrated in vacuo. The crude product mixture is partitioned between EtOAc and brine, the collected organic extracts are dried (Na2SO4), concentrated, and purified by silica gel chromatography (EtOAc/Hexanes:1/4) to afford 4′-Amino-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide; ESMS m/z 271.1 (M+H+).

reactant | 4-chloro-2-methoxy-5-methylaniline | 11.7 mmol, 2.0 g | ClC1=CC(=C(N)C=C1C)OC | C8H10ClNO
reactant | 4-(methylcarbamoyl)phenylboronic acid | 11.7 mmol, 2.08 g | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 2.9 mmol, 1.20 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 34.9 mmol, 7.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | n-butanol | 80 mL | C(CCC)O | C4H10O
catalyst | Pd2(dba)3 | 1.2 mmol, 1.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4′-Amino-5′-methoxy-N,2′-dimethylbiphenyl-4-carboxamide | NC1=CC(=C(C=C1OC)C1=CC=C(C=C1)C(=O)NC)C | C16H18N2O2
